US06573293B2
4-Methyl-5-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid Methyl Ester
Oxindole (105 mg, 0.79 mmol) was condensed with 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid methyl ester (110 mg, 0.67 mmol) using method E to give 153.2 mg (81%) of the title compound.

reactant | Oxindole | 0.79 mmol, 105 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid methyl ester | 0.67 mmol, 110 mg | COC(=O)C=1NC(=C(C1)C)C=O | C8H9NO3
product | 4-Methyl-5-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid Methyl Ester | 153.2 mg, 81% | COC(=O)C=1NC(=C(C1)C)C=C1C(NC2=CC=CC=C12)=O | C16H14N2O3
